US09315463B2
1-[4-(3-Bromopropoxy)phenyl]acetone
To a solution of 1-(4-hydroxyphenyl)propan-2-one (2.2 g, 0.01 mol) in dimethylformamide (10 mL) was added 1,3-dibromopropane (7.6 mL, 0.07 mol), potassium carbonate (2.3 g, 0.01 mol) and potassium iodide (0.7 g, 0.004 mol). The mixture was stirred at room temperature for 72 hours. Water was added into the reaction vessel and the crude was extracted with ethyl acetate. The organic layer was washed with water and brine, dried, filtered and evaporated to dryness. The crude obtained was purified by column chromatography with silica gel, eluting with hexane/ethyl acetate (from 100% to 10%), obtaining the title compound (54%).

reactant | 1-(4-hydroxyphenyl)propan-2-one | 0.01 mol, 2.2 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | 1,3-dibromopropane | 0.07 mol, 7.6 mL | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 0.01 mol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.004 mol, 0.7 g | [I-].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 1-[4-(3-Bromopropoxy)phenyl]acetone | 54% | BrCCCOC1=CC=C(C=C1)CC(=O)C | C12H15BrO2
